US06794402B2
The free base of 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one was made by the addition of K2CO3 (170 mg, 1.2 mmol) to 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one hydrochloride (500 mg, 1.2 mmol) in THF (50 mL). To this suspension was added 3-furaldehyde (470 mg, 4.9 mmol) and, after 10 minutes, NaBH(OAc)3 (520 mg, 2.4 mmol) was added. After stirring the reaction mixture 3 hours, additional NaBH(OAc)3 (520 mg, 2.4 mmol) was added, and stirring continued for 14.5 hours. The solution was diluted with MeOH and brought to pH=13 with solid NaOH. The solution was then concentrated under reduced pressure. Purification by flash chromatography (silica, 90:9.5:0.5 CH2Cl2:MeOH:NH4OH), followed by formation of the HCl salt, gave 6-(trans-4-{[3-(4-fluorophenyl)-propyl]furan-3-ylmethylamino}cyclohexyl)-3H-benzoxazol-2-one (272 mg, 46%) as an off-white solid: mp 225-227° C.; IR (KBr): 2929, 1773, 1510 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 11.49 (s, 1H), 9.99 (br s, 1H), 7.90 (s, 1H), 7.76 (s, 1H), 7.27-7.24 (m, 2H), 7.18 (s, 1H), 7.14-7.10 (m, 2H), 7.02-6.98 (m, 2H), 6.75 (s, 1H), 4.30-4.18 (m, 2H), 3.33-3.29 (m, 1H), 3.20-3.12 (m, 1H), 3.01-2.93 (m, 1H), 2.67-2.53 (m, 3H), 2.22-2.15 (m, 2H), 2.07-1.88 (m, 4H), 1.78-1.66 (m, 2H), 1.62-1.49 (m, 2H); ESI-MS (m/z): 449 [M+H]+; HPLC: method A, 6.27 minutes (99.8%); Anal. Calcd for C27H29FN2O3.HCl: C, 66.87; H, 6.23; N, 5.78. Found: C, 66.54; H, 6.27; N, 5.48.

reactant | 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one | FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C22H25FN2O2
reactant | K2CO3 | 1.2 mmol, 170 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-{trans-4-[3-(4-fluorophenyl)propylamino]cyclohexyl}-3H-benzoxazol-2-one hydrochloride | 1.2 mmol, 500 mg | Cl.FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1
reactant | 3-furaldehyde | 4.9 mmol, 470 mg | O1C=C(C=C1)C=O | C5H4O2
reactant | NaBH(OAc)3 | 2.4 mmol, 520 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2.4 mmol, 520 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 6-(trans-4-{[3-(4-fluorophenyl)-propyl]furan-3-ylmethylamino}cyclohexyl)-3H-benzoxazol-2-one | 272 mg, 46% | FC1=CC=C(C=C1)CCCN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)CC1=COC=C1 | C27H29FN2O3
